### PR TITLE
[Merged by Bors] - archive: smooth functions whose integral calculates the values of polynomials

### PR DESCRIPTION
**Pull request by sgouezel**
Test case of the library suggested by Martin Hairer, see https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Hairer.20challenge/near/404836147.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Archive/Hairer.lean [hunk 1]
```diff
@@ -0,0 +1,242 @@
...
+  rw [← LinearMap.range_eq_top]
+  apply Submodule.eq_top_of_finrank_eq
+  set W : Subspace K _ := LinearMap.range B.flip
+  have := W.finrank_add_finrank_dualCoannihilator_eq
+  rw [Subspace.dual_finrank_eq, ← this, eq_comm, add_right_eq_self, finrank_eq_zero, eq_bot_iff]
+  intro x hx
+  apply hB
+  ext v
+  rw [Submodule.mem_dualCoannihilator] at hx
+  simpa using hx _ (LinearMap.mem_range_self _ v)
```
Comment (alreadydone) [inline Archive/Hairer.lean:158]: This is now in as [flip_injective_iff₁](https://github.com/leanprover-community/mathlib4/pull/8820/files#diff-1a470a10fd05f0eedb570bfbbe37c36b1a2472e9dc4c78aa7fc070d33ec2c2d2R1540-R1541)

File: Archive/Hairer.lean [hunk 2]
```diff
@@ -0,0 +1,242 @@
...
+  map_add' := by simp
+  map_smul' := by simp
+
+/- what we actually want -/
+lemma analyticOn_eval {R σ : Type*} [Fintype σ] [IsROrC R] (P : MvPolynomial σ R) :
+    AnalyticOn R (fun x ↦ eval (EuclideanSpace.equiv σ R x) P) univ := fun x _ ↦ by
+  apply P.induction_on (fun r ↦ ?_) (fun p q hp hq ↦ ?_) fun p i hp ↦ ?_ -- refine doesn't work
+  · simp_rw [eval_C]; exact analyticAt_const
+  · simp_rw [eval_add]; exact hp.add hq
+  · simp_rw [eval_mul, eval_X]; exact hp.mul ((ContinuousLinearMap.proj (R := R) i).analyticAt x)
```
Comment (alreadydone) [inline Archive/Hairer.lean:111]: This should be an easy PR but needs a new file because there's nothing that imports both MvPolynomial and AnalyticOn. I think the correct generality is that you can eval on a family of analytic functions `σ → E → F` for normed spaces `E` and `F` over a NontriviallyNormedField R. If `E` is finite dimensional Hausdorff, any linear `E → F` is continuous, so you can state the result with a linear map `E →ₗ[R] σ → F`.

```suggestion
lemma analyticOn_eval {R σ : Type*} [Fintype σ] [IsROrC R] (P : MvPolynomial σ R) :
    AnalyticOn R (fun x ↦ eval (EuclideanSpace.equiv σ R x) P) univ := fun x _ ↦ by
  apply P.induction_on (fun r ↦ ?_) (fun p q hp hq ↦ ?_) fun p i hp ↦ ?_ -- refine doesn't work
  · simp_rw [eval_C]; exact analyticAt_const
  · simp_rw [eval_add]; exact hp.add hq
  · simp_rw [eval_mul, eval_X]; exact hp.mul ((ContinuousLinearMap.proj (R := R) i).analyticAt x)
```

File: Archive/Hairer.lean [hunk 3]
```diff
@@ -0,0 +1,242 @@
...
+  simp only [← Finsupp.card_toMultiset]
+  refine Set.Finite.of_finite_image ?_ (Multiset.toFinsupp.symm.injective.injOn _)
+  convert finite_stuff' (σ := σ) N
+  ext x
+  rw [← AddEquiv.coe_toEquiv, Set.mem_image_equiv]
+  simp
+
+instance [Finite σ] : Module.Finite R (restrictTotalDegree σ R n) := by
+  rw [Module.finite_def, fg_top, restrictTotalDegree_eq_span]
+  exact Submodule.fg_span ((finite_stuff _).image _)
```
Comment (alreadydone) [inline Archive/Hairer.lean:137]: Let's try to golf these a bit. The instance could go into Mathlib.RingTheory.MvPolynomial.Basic together with `restrictTotalDegree_eq_span`.

File: Archive/Hairer.lean (hunk 2 above)
Comment (alreadydone) [reply Archive/Hairer.lean]: This is now in another file (could be PR'd separately if necessary)

File: Archive/Hairer.lean (hunk 3 above)
Comment (alreadydone) [reply Archive/Hairer.lean]: These are now golfed but I can't move the instance to RingTheory.MvPolynomial.Basic because of the lack of imports. #find_home suggests it has to stay in this file.

**Review by alreadydone — APPROVED** [review]

**Comment by jcommelin** [comment]
If L30 till L90 are moved to a proper home in mathlib, then I think this is ready for merging.

**Comment by sgouezel** [comment]
It's not clear to me that `SmoothSupportedOn` should move to mathlib: it's really an ad hoc construction done just for the proof, not something of broader interest. On the other hand, ` Module.Finite R (restrictTotalDegree σ R N)` should definitely move to mathlib, but we couldn't find a good home for it. Maybe create a new file?

**Review by jcommelin — APPROVED** [review]
Ok, fair point. In that case I'm going to merge this now. Because it seems like there's ~10 lines that could go to mathlib, and we don't know of a good home for them.

bors merge

**Comment by alreadydone** [comment]
#find_home may produce false negatives if the statement (or the proof) pick up instances defined in more advanced files when more elementary instances suffice (reported [on Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Exterior.20algebras.20everywhere.2E.2E.2E/near/409942700)). Because of this I'm not really sure we need a new file.
